US08859591B2
To a mixture of 1-bromo-4-methoxy-2-methylbenzene (1.5 g, 7.5 mmol) in N,N-dimethylformamide (15 mL) was added 4-(trifluoromethyl)-1H-pyrazole (1.12 g, 8.21 mmol), copper(II) oxide (107 mg, 0.746 mmol), and cesium carbonate (4.86 g, 14.9 mmol). The mixture was heated in a microwave to 120° C. for 1 hour. The mixture was diluted with water (20 mL) and extracted with ethyl acetate (3×30 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated. Purification by column chromatography gave 1-(4-methoxy-2-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole (550 mg, 29%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 7.81 (s, 1H), 7.74 (s, 1H), 7.16 (m, 1H), 6.74 (m, 2H), 3.77 (s, 3H), 2.10 (s, 3H).

reactant | 1-bromo-4-methoxy-2-methylbenzene | 7.5 mmol, 1.5 g | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
reactant | 4-(trifluoromethyl)-1H-pyrazole | 8.21 mmol, 1.12 g | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | cesium carbonate | 14.9 mmol, 4.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
catalyst | copper(II) oxide | 0.746 mmol, 107 mg | [Cu]=O
product | 1-(4-methoxy-2-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole | 550 mg, 29% | COC1=CC(=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C12H11F3N2O
